US04423070
3'-Chloromethyl-4'-hydroxyacetophenone (108 g.) was added to a mixture of anhydrous sodium acetate (54 g.) glacial acetic acid (500 ml.) and acetic anhydride (250 ml.). The mixture was heated at 95° C. for 4 hours, then concentrated by distilling under reduced pressure. The gummy residue was dissolved in water (500 ml.) and the aqueous solution was extracted with chloroform (3×300 ml.). The combined extracts were dried (MgSO4), filtered and evaporated to give a yellow oil. This was distilled under high vacuum to give 3'-acetoxymethyl-4'-acetoxyacetophenone as a colourless viscous liquid (108 g.), b.p. 143°-147° C. (0.3 mm.), which crystallised on cooling to give solid, m.p. 47°-48° C.

reactant | 3'-Chloromethyl-4'-hydroxyacetophenone | 108 g | ClCC=1C=C(C=CC1O)C(C)=O | C9H9ClO2
reactant | sodium acetate | 54 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 250 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 3'-acetoxymethyl-4'-acetoxyacetophenone | C(C)(=O)OCC=1C=C(C=CC1OC(C)=O)C(C)=O | C13H14O5
